US08258130B2
A solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (389 mg, 1.78 mmol), HOAt (290 mg, 2.13 mmol), and HATU (811 mg, 2.13 mmol) in DMF (20 mL) is stirred at rt under N2 for 20 min. 5-Fluoro-2-methyl-indol-1-ylamine (290 mg, 1.77 mmol) and DIPEA (450 μL, 2.58 mmol) are added. The resulting mixture is stirred at 80° C. overnight. The mixture is cooled and portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 25% DCM in heptane to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-fluoro-2-methyl-indol-1-yl)amide (300 mg, 47%) as a solid. MS: 365 (M+H). 1H NMR (300 MHz, CDCl3): δ 9.23 (s, 1H), 8.76 (s, 1H), 8.35-8.22 (m, 2H), 7.54-7.45 (m, 1H), 7.19-6.86 (m, 5H), 6.25 (s, 1H), 2.29 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | 1.78 mmol, 389 mg | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | HOAt | 2.13 mmol, 290 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 2.13 mmol, 811 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-Fluoro-2-methyl-indol-1-ylamine | 1.77 mmol, 290 mg | FC=1C=C2C=C(N(C2=CC1)N)C | C9H9FN2
reactant | DIPEA | 2.58 mmol, 450 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-fluoro-2-methyl-indol-1-yl)amide | 300 mg, 47% | FC=1C=C2C=C(N(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14F2N4O
